US08685969B2
7-(2-Hydroxyethoxy)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
To a solution of 7-(2-methoxyethoxy)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (101 mg, 0.194 mmol) in dichloromethane (5 mL) at 0° C. was added tribromoborane in dichloromethane (0.622 mL, 0.622 mmol) over 5 min. The resulting heterogeneous mixture was stirred at room temperature for 1.5 hr. The reaction was quenched with ice water (15 mL). The mixture was basified with 1 N NaOH solution to pH 10 and extracted with ethyl acetate (3×40 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. After the solvent was removed under vacuum, the residue was purified by reverse phase HPLC. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (44.0 mg, 0.084 mmol, 43.3% yield) as a yellow solid. The product is mixture of two atropisomers at rt. LCMS (M+H)+=506.23. 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for the major atropisomer) δ: 11.67 (s, 1H), 8.44 (s, 1H), 8.21 (s, 1H), 7.37 (s, 1H), 4.07 (m, 2H), 3.78 (m, 2H), 1.81 (s, 3H).

reactant | 7-(2-methoxyethoxy)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.194 mmol, 101 mg | COCCOC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C30H25N5O4
reactant | tribromoborane | BrB(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.622 mmol, 0.622 mL | ClCCl | CH2Cl2
product | 7-(2-Hydroxyethoxy)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.084 mmol, 44.0 mg, 43.3% yield | OCCOC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C29H23N5O4
